US05047540
A solution of 100 mg of 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane IIa6 in 0.3 ml of N-methylimidazole is stirred at 25° C. overnight. After the solvent is evaporated, the residue is washed with water to give 102 mg of 2-methoxy-1-octadecylcarbamoylthio-3-(3-N-methylimidazoliniopropylsulfonylamino)propane iodide Ia24 in 91% yield.

reactant | 3-(3-iodopropylsulfonylamino)-2-methoxy-1-octadecylcarbamoylthiopropane | 100 mg | ICCCS(=O)(=O)NCC(CSC(NCCCCCCCCCCCCCCCCCC)=O)OC | C26H53IN2O4S2
reactant | N-methylimidazole | 0.3 ml | CN1C=NC=C1 | C4H6N2
product | 2-methoxy-1-octadecylcarbamoylthio-3-(3-N-methylimidazoliniopropylsulfonylamino)propane iodide | 102 mg, 91% yield | [I-].COC(CSC(NCCCCCCCCCCCCCCCCCC)=O)CNS(=O)(=O)CCC[NH+]1CN(CC1)C | InChI=1S/C30H62N4O4S2.HI/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-21-31-30(35)39-27-29(38-3)26-32-40(36,37)25-20-22-34-24-23-33(2)28-34;/h29,32H,4-28H2,1-3H3,(H,31,35);1H
